resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.018439
R2 0 n2 0.987861
R3 0 n4 0.994546
R4 n1 n3 1.009358
R5 n1 n5 0.98504
R6 n2 n3 0.987579
R7 n2 n6 1.007263
R8 n3 n7 1.018316
R9 n4 n5 0.985529
R10 n4 n6 0.995469
R11 n5 n7 0.145708
R12 n6 n7 1.006318
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
